US07514460B2
1-[2-(6,7-Dimethoxyquinazolin-4-ylamino)benzothiazol-6-yl]-3-(3-methoxyphenyl)urea was prepared from 3-methoxyphenyl isocyanate (15 μL, 0.113 mmol) and N2-(6,7-dimethoxyquinazolin-4-yl)benzothiazole-2,6-diamine (40 mg, 0.113 mmol) according to GP 3. The mixture was poured into water (20 mL) and the resulting precipitate was purified by pTLC (dichloromethane:methanol=9:1) to obtain a yellow solid (26 mg, 53 μmol, 46%). LC/ESI-MS: m/z=503 [M+H]+; m/z=501 [M−H]−; Rt=3.12 min.

reactant | 3-methoxyphenyl isocyanate | 0.113 mmol, 15 μL | COC=1C=C(C=CC1)N=C=O | C8H7NO2
reactant | N2-(6,7-dimethoxyquinazolin-4-yl)benzothiazole-2,6-diamine | 0.113 mmol, 40 mg | COC=1C=C2C(=NC=NC2=CC1OC)NC=1SC2=C(N1)C=CC(=C2)N | C17H15N5O2S
solvent | water | 20 mL | O | H2O
product | 1-[2-(6,7-Dimethoxyquinazolin-4-ylamino)benzothiazol-6-yl]-3-(3-methoxyphenyl)urea | COC=1C=C2C(=NC=NC2=CC1OC)NC=1SC2=C(N1)C=CC(=C2)NC(=O)NC2=CC(=CC=C2)OC | C25H22N6O4S
